US05852010
Step I: 3-Amino-5-phenyl-1-(2,2,2-trifluoroethyl)-1H-benzo[e][1,4]diazepine-2-one
To a stirring solution of 3-azido-5-phenyl-1-(2,2,2-trifluoroethyl)-1H-benzo[e][1,4]diazepine-2-one (crude from above) in 1.3 L THF was added triphenylphosphine (109 g, 0.417 mol) and water (150 mL). This was stirred overnight at ambient temperature. The reaction was then concentrated under reduced pressure, taken up in 1N HCl (1500 mL), and extracted with ethyl ether (2×500 mL). The combined organics were back extracted with 1N HCl (1×300 mL). The combined aqueous layers were back extracted with ethyl acetate (100 mL) and then basefied with sat. NaHCO3 (100 mL) and 50% NaOH until pH=10. This was extracted with ethyl acetate (2×500 mL). The combined ethyl acetate fractions were dried over Na2SO4, evaporated under reduced pressure and crystallized from ethyl ether to give the title compound as a powder. MP=141°-143° C.;

reactant | 3-azido-5-phenyl-1-(2,2,2-trifluoroethyl)-1H-benzo[e][1,4]diazepine-2-one | N(=[N+]=[N-])C1N=C(C2=C(N(C1=O)CC(F)(F)F)C=CC=C2)C2=CC=CC=C2 | C17H12F3N5O
reactant | triphenylphosphine | 0.417 mol, 109 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | water | 150 mL | O | H2O
solvent | THF | 1.3 L | C1CCOC1 | C4H8O
product | 3-Amino-5-phenyl-1-(2,2,2-trifluoroethyl)-1H-benzo[e][1,4]diazepine-2-one | NC1N=C(C2=C(N(C1=O)CC(F)(F)F)C=CC=C2)C2=CC=CC=C2 | C17H14F3N3O
